Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Cerebellar hemorrhage
 
Major Surgical or Invasive Procedure:
___ Posterior Fossa Craniectomy and Clot Evacuation
___ Placement of Right Frontal EVD
___ Removal of EVD
 
History of Present Illness:
HPI: ___ y/o F transferred from OSH with cerebellar hemorrhage.
Per Medflight, the patient was last seen at home normal around
4:30 ___ today. She then c/o headache and her speech became
slurred. She was transported to ___ by EMS. Upon
arrival, her GCS gradually declined. She underwent a head CT
which revealed the cerebellar hemorrhage. She was intubated for
airway protection and transported to ___ via Medflight. She
received a total of 25mg Mannitol en route. 

PMHx: osteoporosis, UTI, nephrolithiasis, anemia, leukopenia,
immunosuppression, hip replacement, cataract surgery, retinal
detachment, hysterectomy, appendectomy

 
Past Medical History:
PMHx: osteoporosis, UTI, nephrolithiasis, anemia, leukopenia,
immunosuppression, hip replacement, cataract surgery, retinal
detachment, hysterectomy, appendectomy

 
Social History:
___
Family History:
unknown
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
T:   BP: 129/69  HR: 56  RR: 14   O2Sats 100% ETT. Invasive
Mode:CMV FiO2:40% PEEP:5 RR:14 Vt:450
Gen: Intubated, off propofol.
HEENT: Pupils: R 3mm, irregularly shaped and reactive.
L pupil 3-2mm.
No EO to noxious. No FC.
No corneal reflexes.
+ cough, no gag reflex.
BUE no withdrawal to noxious.
BLE bilateral triple flex, right greater than left.       

Toes upgoing bilaterally.
Handedness: unkown.

PHYSICAL EXAMINATION ON DISCHARGE:
Awake and alert at times.  Unable to assess orientation due to 
no speaking/voice (with trach).
Right pupil mis-shapen but reactive (6->4).  Left 5->3).
Left facial droop.
Trach site clean and dry.
Moving all extremities (left weaker than right).
Posterior (occipital) incision CDI (sutures removed ___.
 
Pertinent Results:
CTA Head & Neck: ___
1. Redemonstration of posterior fossa/cerebellar, 
interventricular, and 
subarachnoid hemorrhages with associated hydrocephalus and mass 
effect as 
detailed above. 
2. Hyperdense focus within the region of the cerebellar 
hematoma; underlying mass or vascular malformation cannot be 
excluded. Followup MR is suggested for further characterization. 

3. Otherwise unremarkable appearance of the vasculature of the 
head and neck, without significant stenosis (by NASCET 
criteria), dissection, or aneurysm. 
4. Heterogeneous 1.8 cm left thyroid mass can be further 
evaluated with 
sonogram as clinically warranted. 

CT Head: ___
1.  Post-surgical changes related to evacuation of large 
posterior fossa 
hemorrhage including bioccipital craniectomy and pneumocephalus 
with locules of air seen within the basilar cisterns and the 
anterior horn of the left lateral ventricle. 
2.  A small amount of residual hyperdense blood remains at the 
surgical margin with evidence of redistributed blood products 
within the ventricular system.  
There is no new or enlarging hematoma. 
  
NOTE ADDED AT ATTENDING REVIEW: There has been reexpansion of 
the fourth 
ventricle associated with relief of posterior fossa mass effect. 
However, the third and lateral ventricles have continued to 
enlarge. Although there in no evidence of increased 
intraparenchymal hemorrhage, there is substantially more 
intraventricular blood than on the study of ___ at 19:18. 
This likely is responsible for developing hydrocephalus. 

CT Head: ___
Status post external ventricular drain placement, in appropriate 

position. Interval enlargement of ventricles since 5:00 a.m. 
Correlate with drain output. 

CT head ___. Interval redistribution of the posterior fossa blood 
products. No new 
hemorrhage or mass effect. 
2. Removal of the EVD with hemorrhage along the tract. 
3. Stable right tentorial subdural hematoma. 

___ 05:55AM BLOOD WBC-14.8* RBC-3.07* Hgb-9.0* Hct-28.8* 
MCV-94 MCH-29.3 MCHC-31.3 RDW-14.0 Plt ___
___ 06:10AM BLOOD WBC-13.6* RBC-3.07* Hgb-9.2* Hct-29.1* 
MCV-95 MCH-29.9 MCHC-31.5 RDW-14.2 Plt ___
___ 02:29AM BLOOD WBC-14.2* RBC-2.98* Hgb-8.8* Hct-28.1* 
MCV-94 MCH-29.6 MCHC-31.4 RDW-13.9 Plt ___
___ 09:15PM BLOOD ___ PTT-29.1 ___
___ 05:55AM BLOOD Glucose-141* UreaN-15 Creat-0.4 Na-131* 
K-4.2 Cl-95* HCO3-29 AnGap-11
___ 06:10AM BLOOD Glucose-126* UreaN-13 Creat-0.4 Na-131* 
K-4.0 Cl-92* HCO3-31 AnGap-12
___ 02:29AM BLOOD Glucose-160* UreaN-15 Creat-0.4 Na-140 
K-4.0 Cl-104 HCO3-27 AnGap-13
___ 05:55AM BLOOD Calcium-8.5 Phos-3.8 Mg-2.3
___ 06:10AM BLOOD Calcium-8.8 Phos-3.5 Mg-1.8
___ 02:29AM BLOOD Calcium-8.6 Phos-3.1 Mg-1.9
___ 04:09AM BLOOD TSH-11*
___ 09:42AM URINE Color-Yellow Appear-Hazy Sp ___
___ 06:20PM URINE Color-Straw Appear-Clear Sp ___
___ 09:42AM URINE Blood-MOD Nitrite-NEG Protein-100 
Glucose-NEG Ketone-40 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 06:20PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 09:42AM URINE RBC-85* WBC->182* Bacteri-FEW Yeast-NONE 
Epi-0 TransE-1
___ 09:42AM URINE WBC Clm-OCC Mucous-RARE

___ 11:00 am BRONCHOALVEOLAR LAVAGE      BRONCHIAL LAVAGE. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 

   RESPIRATORY CULTURE (Final ___: 
      ~3000/ML Commensal Respiratory Flora. 
      SERRATIA MARCESCENS.    10,000-100,000 ORGANISMS/ML.. 
         This organism may develop resistance to third 
generation
         cephalosporins during prolonged therapy. Therefore, 
isolates that
         are initially susceptible may become resistant within 
three to
         four days therefore be warranted if third generation
         cephalosporins were used therefore be warranted if 
third
         generation cephalosporins were used. 
         Piperacillin/tazobactam sensitivity testing available 
on request. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             SERRATIA MARCESCENS
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
TOBRAMYCIN------------     8 I
TRIMETHOPRIM/SULFA----   <=1 S

___ 9:42 am URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      PSEUDOMONAS AERUGINOSA.    >100,000 ORGANISMS/ML.. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----     8 S
TOBRAMYCIN------------   <=1 S

 
Brief Hospital Course:
Ms. ___ was transferred to the ED at ___ from ___ 
___ with a cerebellar hemorrhage with intraventricular 
extension. Upon arrival, she underwent a CTA which showed a 
vascular malformation. She was taken to the operating room 
emergently and underwent a suboccipital craniotomy and 
evacuation of hematoma. She was admitted to the ICU 
post-operatively for close monitoring.

On ___, she underwent a head CT which showed hydrocephalus. She 
underwent placement of a right frontal VP shunt. She underwent a 
head CT post-placement of EVD which showed good placement of the 
catheter tip. Her SBP was liberalized to <160 and her neurologic 
checks were liberalized to every 4-hours.  

On ___, her neurologic examination was improving as she was 
following simple commands. An embolization of AVM was planned 
for today. ICPs were within normal limits throughout the day. 

On ___, the patient's neurologic examination remained stable. 
The EVD was raised to 15. Tube feeds were started. 

On ___, the patient was extubated in the early morning but 
developed increased work of breathing and was unable to protect 
her airway and was subsequently re intubated. The EVD was raised 
to 20.  The ICPs were reading negative in the evening and there 
was no drainage from the EVD and it was replaced and set at 10.  


On ___ the patient underwent a bronchoscopy; antibiotics for 
her UTI were changed, her cultures showed pseudomonas. Her EVD 
was clamped later in the day and when trach and PEG were 
discussed the patient was agreeable through nodding head.  

On ___ she was stable and her EVD remained clamped. Her CXR 
showed bibasilar atelectasis, and her EVD was noted to be 
leaking. She underwent CT scan which showed stable ventricular 
size and the EVD was discontinued. Her neuro checks were also 
changed to q1hour.

On ___ she continued to be stable and she underwent trach and 
PEG placement which was done without incident.

On ___ she was neurologically stable following trach and PEG 
placement and was ventilated via trach mask. A CT of the head 
was planned for ___.

On ___ Patient remained neurologically stable. She was 
evaluated by speech and swallow for a Passy Muir valve. 

On ___ CT of the head revealed stable ventricle size. She 
remained neurologically stable. She was transferred to the floor 
with telemetry. ___ and OT were consulted. 

On ___, Free water flushes were decreased to 50 Q6h, salt tabs 
were started for a serum sodium of 131. Speech and swallow 
evaluated the patient for a PMV, but it was not tolerated due to 
copious secretions and high tracheal pressures.  Her cuff was 
reinflated.

On ___, Mrs. ___ was transferred to ___ ___.  The 
patient was afebrile, hemodynamically and neurologically stable. 
 Her WBC was up from 13 to 14, but remains on Cipro for a 
urinary and respiratory tract infection (pseudomonas and 
serratia, respectively, both sensitive to cipro).  Per discharge 
instructions, the patient should follow up with Dr. ___ in 
one month where a non-contrast head CT should be obtained prior 
to that appointment.  A signout was provided by myself to the NP 
at ___.  

Outstanding/current issues are as follows:

#Hyponatremia.  Sodium levels remain at 130-131 despite starting 
NaCl tablets and reducing free water.  This should be continued 
by the rehabilitation facility.

#Infectious Disease.  Patient is currently on day 5 of Cipro 
therapy for serratia in sputum and pseudomonas in urine.  
Current WBC is 14 but is currently afebrile.  

#Trach weaning.  Patient has been trialed on cuff deflation for 
24 hours, but did not tolerate well due to an increase in 
secretions.  Also a Passey-Muir valve was trialed ___ by the 
Speech/Swallow Therapist.  The valve was not tolerated due the 
increase in secretions and high tracheal pressures.  Ongoing, 
intermittent cuff deflation should be continued based on the 
rehab's evaluation.

#Cerebellar AVM:  Mrs. ___ will need to undergo a cerebral 
angiogram in the future for securing of her known cerebellar 
arteriovenous malformation.  The patient should follow up with 
Dr. ___ in one month with a non-contrast head CT prior to 
that appointment.
 
Medications on Admission:
Synthroid 75mcg alternating with 50mcg QD
Methotrexate 2.5mg PO every week
Enbrel 70mg SC weekly
Prolia every 6-months
Flomax
Percocet

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN fever, pain 
2. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
3. Ciprofloxacin HCl 500 mg PO Q12H 
4. Dextrose 50% 12.5 gm IV PRN hypoglycemia protocol 
5. Docusate Sodium 100 mg PO BID 
6. Glucagon 1 mg IM Q15MIN:PRN hypoglycemia protocol 
7. Glucose Gel 15 g PO PRN hypoglycemia protocol 
8. Heparin 5000 UNIT SC TID 
9. Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using REG Insulin
10. Levothyroxine Sodium 88 mcg PO DAILY 
11. modafinil 200 mg oral qAM 
12. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
13. Senna 8.6 mg PO BID:PRN constipation 
14. Sodium Chloride 1 gm PO TID 
15. Enbrel (etanercept) 40 mg subcutaneous weekly 
Will need to be resumed at discretion of rehab. 
16. Methotrexate 2.5 mg PO 1X/WEEK (___) 
Will need to be resumed at discretion of rehab.   Unsure what 
day patient was taking. 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right cerebellar hemorrhage. 
Basilar AVM
Hydrocephalus
Altered mental status
Respiratory failure
Pleural effusion
Hypophosphatemia
Urinary tract infection
Respiratory tract infection
Hyponatremia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
 
Discharge Instructions:
Craniotomy for Hemorrhage

•Have a friend/family member check your incision daily for 
signs of infection.
•Take your pain medicine as prescribed.
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, and 
Ibuprofen etc. 
•Make sure to continue to use your incentive spirometer while 
at home, unless you have been instructed not to. 

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

•New onset of tremors or seizures.
•Any confusion or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•Any signs of infection at the wound site: redness, swelling, 
tenderness, or drainage.
•Fever greater than or equal to 101.5° F.

 
Followup Instructions:
___